US05096890
Preparation of 1-tosyl-3-(R,S)-tosyloxypyrrolidine
Para-toluenesulphonyl chloride (68.8 g) was added, in portions, to a solution of 3-(R,S)-hydroxypyrrolidine (15 g) in dry pyridine (200 ml) at 0° C. The mixture was allowed to warm to room temperature and stirred for 16 hours. The solution was concentrated in vacuo to approximately half the original volume then partitioned between dichloromethane (500 ml) and water (300 ml). The layers were separated and the aqueous layer was extracted with dichloromethane (3×100 ml). The combined dichloromethane extracts were washed with 2M hydrochloric acid (100 ml) and 10% aqueous sodium hydroxide (100 ml) then dried (MgSO4) and concentrated in vacuo to give an oil which was crystallised from dichloromethane/ether to give the title compound as a microcrystalline powder, yield 28.3 g, m.p. 119°-121° C.

reactant | Para-toluenesulphonyl chloride | 68.8 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 3-(R,S)-hydroxypyrrolidine | 15 g | OC1CNCC1 | C4H9NO
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 1-tosyl-3-(R,S)-tosyloxypyrrolidine | S(=O)(=O)(C1=CC=C(C)C=C1)N1CC(CC1)OS(=O)(=O)C1=CC=C(C)C=C1 | C18H21NO5S2
